US07713994B2
To a suspension of potassium hydroxide (1.4 g, 25 mmol) and N,N′-dimethyl-3-aminopyrrolidine (1.4 g, 12 mmol) in dimethylsulfoxide (13 mL) is added dropwise 4-fluoronitrobenzene (1.1 mL, 10 mmol). The mixture is heated in a 60-65° C. oil bath for 4 hours. After cooling to room temperature, ice is added to the reaction mixture. The resulting precipitate is collected, washed with water, and dried under vacuum to give methyl-(1-methyl-pyrrolidin-3-yl)-(4-nitro-phenyl)-amine.

reactant | potassium hydroxide | 25 mmol, 1.4 g | [OH-].[K+]
reactant | N,N′-dimethyl-3-aminopyrrolidine | 12 mmol, 1.4 g | CNC1CCN(C1)C | C6H14N2
reactant | 4-fluoronitrobenzene | 10 mmol, 1.1 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylsulfoxide | 13 mL | CS(=O)C | C2H6OS
product | methyl-(1-methyl-pyrrolidin-3-yl)-(4-nitro-phenyl)-amine | CN(C1=CC=C(C=C1)[N+](=O)[O-])C1CN(CC1)C | C12H17N3O2
